US05710301
Synthesis of [(S)-2-methylbutyl]phenyldichlorosilane.
Anhydrous tetrahydrofuran (125 mL) was put into a reactor with magnesium (5.7 g, 0.24 mol) and molecular sieves 4A which had been dehydrated and deaerated, followed by charging of argon gas. A small amount of iodine was slowly added to the mixture. (S)-(+)-1-bromo-2-methylbutane (30 g, 0.20 mol) was added dropwise to the slowly stirred mixture so that the reaction mixture was gradually refluxed. After the reaction was complete, the obtained Grignard reagent was transferred to a dropping funnel. The Grignard reagent was added dropwise to a solution being stirred containing phenyltrichlorosilane (50 g, 0.24 mol) in anhydrous tetrahydrofuran (50 mL) in another reactor which had been dehydrated and deaerated, followed by charging of argon gas, at 40° C.-50° C. The reaction mixture was then stirred overnight at room temperature. Hexane (500 mL) was added to the reaction mixture, and the resulting mixture was filtered under pressure, followed by fractional distillation of the filtrate to provide the desired product.

reactant | magnesium | 0.24 mol, 5.7 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (S)-(+)-1-bromo-2-methylbutane | 0.20 mol, 30 g | BrC[C@H](CC)C | C5H11Br
reactant | phenyltrichlorosilane | 0.24 mol, 50 g | C1(=CC=CC=C1)[Si](Cl)(Cl)Cl | C6H5Cl3Si
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | Hexane | 500 mL | CCCCCC | C6H14
product | [(S)-2-methylbutyl]phenyldichlorosilane | C[C@H](C[Si](Cl)(Cl)C1=CC=CC=C1)CC | C11H16Cl2Si
